US04490374
4-Methyl-7-methoxy-2(1H)quinazolinone
A mixture of 1-acetyl-3(3-methoxyphenyl)urea (32.5 g, 0.156 m) and polyphosphoric acid (912.5 g) is heated at 120°-130° C. for 2 hours. After cooling to 50° C. the melt is poured on ice-water (2 liters), and the solution is made weakly basic with ammonia and left standing overnight. The brownish-red precipitate which forms is filtered off, washed with cold water followed by hot acetone, and crystallized from ethanol (after treatment with charcoal) to give the product as a pale yellow solid; yield 11.5 g (39.1%); mp 251°-254° C.

reactant | 1-acetyl-3(3-methoxyphenyl)urea | 32.5 g | C(C)(=O)NC(=O)NC1=CC(=CC=C1)OC | C10H12N2O3
reactant | ammonia | N | H3N
product | 4-Methyl-7-methoxy-2(1H)quinazolinone | CC1=NC(NC2=CC(=CC=C12)OC)=O | C10H10N2O2
